Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ ___ speaking
female with a history of CAD s/p PCI x ___ and STEMI in
___, PVD, COPD, and HTN presenting with acute onset chest pain
and dyspnea x 1 day. 

Overnight, the patient developed substernal chest
pain associated with dyspnea. Per patient and daughter, pain was
very severe and caused her to yell out. Sensation is best
described as a tight feeling/pressure associated with severe
dyspnea. The pain was somewhat pleuritic in nature and otherwise
not reproducible. Her daughter says it seems like her
typicalasthma attacks. The only trigger she knows of is cold
weather. Patient took nebulizers without symptomatic relief. 

Pt denies any preceding symptoms to pain, however endorses
increased fatigue and reduced appetite recently. Overall her
symptoms feel very similar to those prompting her last 
admission.

ROS:
Denies change in baseline cough, sputum production,
fevers, chills, nausea, vomiting, shoulder/jaw pain. Pertinent
positives and negatives as noted in the HPI.  All other systems
were reviewed and are negative. 

ED Course:
Originally saturating in the 80% and with significant work of
breathing. Subsequently placed on CPAP by EMS and given duo nebs
with symptomatic improvement. 
Weaned off BiPAP to 3L NC
Labs notable for WBC 8.9, troponin 0.03, pH 7.25 on VBG and
elevated lactate
Received steroids, azithromycin, duonebs, mag, vanc and cefepime
to cover for asthma vs pneumonia
CXR without focal opacity
Stable off BiPAP, lactate improved, so sent to floor
 
Past Medical History:
- Asthma/COPD
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION EXAM
--------------
___ 1842 Temp: 98.2 PO BP: 136/90 HR: 74 RR: 18 O2 sat: 97%
O2 delivery: RA 
___ Pain Score: ___ 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Breathing is slightly labored with use of accessory
muscles. Faint scattered wheezes bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to self and situation but not year
(baseline), face symmetric, gaze conjugate with EOMI, speech
fluent, moves all limbs, sensation to light touch grossly intact
throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
--------------
VS: ___ 0840 Temp: 97.6 PO BP: 138/77 HR: 74 RR: 18 O2 sat:
98% O2 delivery: RA FSBG: 121   
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Faint scattered wheezes bilaterally.  Lungs clear 
otherwise
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to self and situation but not year
(baseline), face symmetric, gaze conjugate with EOMI, speech
fluent, moves all limbs, sensation to light touch grossly intact
throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS
--------------
___ 06:05AM BLOOD WBC-8.9 RBC-3.67* Hgb-11.3 Hct-33.8* 
MCV-92 MCH-30.8 MCHC-33.4 RDW-13.2 RDWSD-44.9 Plt ___
___ 06:05AM BLOOD Neuts-57.3 ___ Monos-8.1 Eos-1.2 
Baso-0.7 Im ___ AbsNeut-5.09 AbsLymp-2.85 AbsMono-0.72 
AbsEos-0.11 AbsBaso-0.06
___ 06:05AM BLOOD Glucose-224* UreaN-15 Creat-1.2* Na-133* 
K-5.4 Cl-100 HCO3-16* AnGap-17
___ 06:05AM BLOOD CK(CPK)-89
___ 06:05AM BLOOD CK-MB-4 cTropnT-0.01 proBNP-4250*
___ 06:05AM BLOOD Calcium-8.9 Phos-5.9* Mg-2.1
___ 07:53AM BLOOD %HbA1c-6.5* eAG-140*
___ 06:08AM BLOOD ___ pO2-129* pCO2-47* pH-7.25* 
calTCO2-22 Base XS--6
___ 06:08AM BLOOD Lactate-3.4*
___ 11:02AM BLOOD O2 Sat-54
___ 11:02AM BLOOD Lactate-1.3

IMAGING
-------
CXR ___:
Support lines and tubes are unchanged in position.  Heart size 
is
enlarged but unchanged. There is patchy atelectasis at the lung
bases. There are no pneumothoraces. 
 
TTE ___
EF 39%. Severe focal in setting of moderate global systolic
dysfunction c/w multi-infarct cardiomyopathy. Due to presence of
regional wall motion in apex a Takatsubo cardiomyopathy is in
the differential however the multi-vessel infarct cardiomyopathy
is more likely. 2) Grade II LV diastolic dysfunction with
elevated LVEDP.

CXR ___
FINDINGS:  
Lungs are hyperinflated. Retrocardiac opacity is suboptimally
evaluated on single frontal view. Heart size is likely 
top-normal
in size, accentuated by 
AP technique. There is no pulmonary edema. No large pleural
effusions. No pneumothorax.  
IMPRESSION:  
Hyperinflated lungs. Subtle retrocardiac opacity is suboptimally
evaluated on single AP view. Cannot exclude pneumonia in the
appropriate clinical setting. 

ECG: NSR, rate 69, TWI in anterolateral leads (present on
previous ECG), QtC 487 

MICROBIOLOGY
------------
___ 6:35 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

Blood culture on admission: NGTD, pending

DISCHARGE LABS
--------------
___ 06:40AM BLOOD WBC-7.7 RBC-3.13* Hgb-9.6* Hct-28.9* 
MCV-92 MCH-30.7 MCHC-33.2 RDW-13.5 RDWSD-46.2 Plt ___
___ 06:40AM BLOOD Glucose-111* UreaN-25* Creat-1.1 Na-136 
K-4.7 Cl-102 HCO3-27 AnGap-7*
___ 06:40AM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:40AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with history of CAD s/p PCI x 
___ and STEMI in ___, PVD, COPD, and HTN presenting with 
acute onset chest pain and dyspnea. 

ACUTE/ACTIVE PROBLEMS:
# Hypoxemic hypercarbic respiratory failure, acute
# COPD, acute exacerbation
# Steroid-induced hyperglycemia
Patient presented with one day of shortness of breath with 
associated chest pain similar to prior COPD/asthma 
exacerbations.  She was initially on BiPAP with plans for ICU 
however she improved dramatically with duonebs, azithromycin and 
steroids in
the ED to the point where she is now on room air. She was given 
vancomycin and cefepime in the ED given ? opacity on her CXR 
however since she is afebrile without a leukocytosis, so held 
off on further antibiotics.  She was placed on five days of 
high-dose prednisone and azithromycin.  Patient was less 
hyperglycemic while on the medical floor, requiring minimal 
sliding scale insulin.  Patient should have PFTs as an 
outpatient.  She will not be placed on insulin at home, as she 
only has two further days of steroid treatment planned, and 
blood sugars were in 100s-200s.  She has follow-up scheduled 
with her PCP and pulmonologist.

# Type 2 NSTEMI: troponin elevated on admission and now 
normalized.  Likely in setting of increased demand due to 
respiratory failure. Pt has persistent T wave inversions on EKG. 
 She was continued on metoprolol.  She was also started on 
isosorbide mononitrate, which will be continued as an 
outpatient.
- repeat troponin downtrended

# Acute kidney injury: creatinine elevated on admission, which 
improved with IV fluid to her normal level.

# Hyponatremia: Likely due to hypovolemia, prerenal etiology.  
Fluid intake was encouraged and IV fluids were provided.  Sodium 
normalized by time of discharge.

# Anion gap acidosis: lactate 3.4 on admission suggesting lactic 
acidosis due to poor tissue perfusion in setting of hypoxia.  
This trended to normal with supportive treatment.

CHRONIC/STABLE PROBLEMS:
# Vitamin deficiency: continued Calcium Carbonate 1500 mg PO/NG 
BID and Multivitamins W/minerals 1 TAB PO/NG DAILY

# GERD: continued Omeprazole 40 mg PO DAILY

# Dry eye: continued Artificial Tears GEL 1% ___ DROP BOTH EYES 
Q6H

# Constipation: patient was placed on Senna 8.6 mg PO/NG BID and 
Docusate Sodium 100 mg PO/NG BID

# Peripheral neuropathy: patient continued Gabapentin 300 mg 
PO/NG DAILY.  She may need uptitration as pt still complains of 
symptoms

# Hypertension: patient was continued on Losartan Potassium 25 
mg PO/NG DAILY and was started on Imdur 60 mg PO daily.

# Insomnia: continued Mirtazapine 15 mg PO/NG QHS

# CAD s/p PCI
# Prior STEMI
# History of HFrEF
Had elevated BNP on admission but c/w prior values. Denies 
orthopnea, PND and feels SOB is more c/w asthma exacerbation.  
She was continued on home metoprolol, atorvastatin, losartan, 
clopidogrel and apixaban.  She was started on Imdur.

TRANSITIONS OF CARE
-------------------
# Follow-up: She has follow-up scheduled with her PCP and 
pulmonologist.  Patient should have PFTs as an outpatient.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Omeprazole 40 mg PO DAILY 
2. Calcium Carbonate 1500 mg PO BID 
3. Clopidogrel 75 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Budesonide Nasal Inhaler  (*NF*) 1 mg Other TID 
6. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Atorvastatin 80 mg PO QPM 
9. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain 
10. Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H 
11. Apixaban 2.5 mg PO BID 
12. Senna 8.6 mg PO BID 
13. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
14. Docusate Sodium 100 mg PO BID 
15. Metoprolol Succinate XL 50 mg PO DAILY 
16. Ramelteon 8 mg PO QHS:PRN insomnia 
17. Ipratropium-Albuterol Neb 1 NEB NEB TID:PRN wheezing 
18. Mirtazapine 15 mg PO QHS 
19. Gabapentin 300 mg PO DAILY 
20. ketotifen fumarate (bulk) 1 drop each eye BID 
21. Losartan Potassium 25 mg PO DAILY 
22. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0 
2.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth daily Disp 
#*20 Tablet Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 4 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0 
4.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
5.  Apixaban 2.5 mg PO BID  
6.  Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H  
7.  Atorvastatin 80 mg PO QPM  
8.  Budesonide Nasal Inhaler  (*NF*) 1 mg Other TID  
9.  Calcium Carbonate 1500 mg PO BID  
10.  Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain  
11.  Clopidogrel 75 mg PO DAILY  
12.  Docusate Sodium 100 mg PO BID  
13.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
14.  Gabapentin 300 mg PO DAILY  
15.  Ipratropium-Albuterol Neb 1 NEB NEB TID:PRN wheezing  
16.  ketotifen fumarate (bulk) 1 drop each eye BID  
17.  Losartan Potassium 25 mg PO DAILY  
18.  Metoprolol Succinate XL 50 mg PO DAILY  
19.  Mirtazapine 15 mg PO QHS  
20.  Multivitamins W/minerals 1 TAB PO DAILY  
21.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
22.  Omeprazole 40 mg PO DAILY  
23.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
24.  Ramelteon 8 mg PO QHS:PRN insomnia  
25.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
COPD with acute exacerbation
Type 2 non-ST elevation myocardial infarction
Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with chest pain and 
shortness of breath.  Further testing showed that you had an 
exacerbation of your COPD, and likely a small heart attack.  You 
improved with medications.  You are now being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___